US06201087B1
40 g (247 mmol) of 7-hydroxy-coumarin (umbelliferone) were suspended in 700 ml of tetrahydrofuran and treated in succession with 38 ml (271 mmol) of triethylamine and 0.603 g (5 mmol) of 4-dimethylaminopyridine (DMAP). 28.4 g (271 mmol) of methacryloyl chloride were added dropwise to the suspension, cooled to about 15° C., in the course of 30 minutes. The reaction batch was stirred at room temperature for 4 hours and subsequently filtered over a thin silica gel layer. The silica gel layer was rinsed thoroughly with THF. After evaporation of the solvent the crude product was dissolved in about 300 ml of dichloromethane and treated with 1.5 l of ethanol. The dichloromethane was again removed on a rotary evaporator. The product crystallized from the remaining ethanolic solution overnight in a refrigerator. It was filtered off, dried and recrystallized once again from 1.1 l of ethanol according to the described procedure. Filtration and drying at 40° C. in a water-jet vacuum gave 42.9 g of 2-oxo-2H-1-benzopyran-7-yl 2-methyl-acrylate as white crystals. λmax. (in CH2Cl2)=312.6 nm (ε=9610 l/mol cm) and 282.3 nm (ε=11450 l/mol cm).

reactant | 7-hydroxy-coumarin | 247 mmol, 40 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | triethylamine | 271 mmol, 38 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 271 mmol, 28.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 5 mmol, 0.603 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-oxo-2H-1-benzopyran-7-yl 2-methyl-acrylate | 42.9 g | CC(C(=O)OC1=CC2=C(C=CC(O2)=O)C=C1)=C | C13H10O4
